US04493843
Fuming nitric acid (95-98% w/w, 3.7 ml) was added dropwise with stirring to concentrated sulphuric acid (98% w/w, 30 ml), whilst maintaining the temperature at 0°-10° C. 1-(4-Carboxyphenyl)-2-nitropropene (15.3 g) was then added in portions with vigorous stirring over 15 minutes, whilst maintaining the temperature at 0°-10° C. The mixture was stirred for 30 minutes at the same temperature. The viscous reaction mixture was poured onto an ice/water mixture (600 ml) and the resulting yellow solid was filtered off and washed with water to give 1-(4-carboxy-2-nitrophenyl)-2-nitropropene (17.17 g), m.p. 200°-202° C. (with decomposition).

reactant | nitric acid | 3.7 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-(4-Carboxyphenyl)-2-nitropropene | 15.3 g | C(=O)(O)C1=CC=C(C=C1)C=C(C)[N+](=O)[O-] | C10H9NO4
product | 1-(4-carboxy-2-nitrophenyl)-2-nitropropene | 17.17 g | C(=O)(O)C1=CC(=C(C=C1)C=C(C)[N+](=O)[O-])[N+](=O)[O-] | C10H8N2O6
